US08022063B2
[4-Butyl-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetic acid.
A solution of ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate (472 mg, 1.1 mmol), 1-butylboronic acid (102 mg, 1.0 mmol) and Pd (dppf)Cl2 (72 mg, 0.05 mmol) in THF (10 mL) and water (1 mL) under argon was refluxed for 24 h. The reaction mixture was extracted with CH2Cl2, the organic phase was filtered through celite and concentrated, and the residue was purified by flash chromatography (SiO2, EtOAc:heptane, 1:10 to 1:1). The purest fraction was concentrated (˜10 mg), and the residue was hydrolysed according to GP3: LC/MS (an 10p8): Rt 2.59 min, m/z 379.1 [M+H]+; 1H NMR (CDCl3): δ 0.88 (t, J=7.5 Hz, 3H), 1.29 (m, 2H), 1.49 (m, 2H), 2.48 (m, 2H), 4.51 (s, 2H), 6.84 (m, 1H), 7.14 (m, 1H), 7.30 (m, 2H), 7.42 (m, 2H), 7.65 (m, 2H), 7.97 (s, 1H), 8.46 (s, 1H).

reactant | ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate | 1.1 mmol, 472 mg | BrC1=CC(=C(OCC(=O)OCC)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C20H17BrN2O4
reactant | 1-butylboronic acid | 1.0 mmol, 102 mg | C(CCC)B(O)O | C4H11BO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | [4-Butyl-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetic acid | C(CCC)C1=CC(=C(OCC(=O)O)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C22H22N2O4
